US07687491B2
(7b) 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carboxaldehyde
To a solution of t-butyl(dimethyl)(4,5,6,7-tetrahydro-1-benzofuran-4-yloxy)silane (4.1 g, 16 mmol) that was obtained in Example 7 (7a) in tetrahydrofuran (30 ml) was slowly added dropwise n-butyllithium (a 1.6 M solution in hexane, 31 ml, 49 mmol) at −78° C. with stirring, and after raising the reaction temperature to 0° C., the resulting mixture was stirred for 30 minutes. After cooling again the reaction mixture to −78° C. while stirring, N,N-dimethylformamide (13 ml, 162 mmol) was added to the reaction mixture with stirring, and the resulting mixture was stirred for 30 minutes. After stirring, a saturated aqueous solution of ammonium chloride (10 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (50 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford the title compound (4.3 g) in a yield of 94% as a white crystalline solid.

reactant | t-butyl(dimethyl)(4,5,6,7-tetrahydro-1-benzofuran-4-yloxy)silane | 16 mmol, 4.1 g | C(C)(C)(C)[Si](OC1CCCC2=C1C=CO2)(C)C | C14H24O2Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylformamide | 162 mmol, 13 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
product | 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carboxaldehyde | yield of 94% | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(O2)C=O | C15H24O3Si
